US08530478B2
(2S)-1-[(4-Chlorophenyl)sulfonyl]-2-methyl-4-(2-pyridinylcarbonyl)piperazine hydrochloride
To a solution of (2S)-1-[(4-chlorophenyl)sulfonyl]-2-methylpiperazine hydrochloride (Description 4) (200 mg, 0.728 mmol) in DCM (8 mL) was added triethylamine (0.172 ml, 1.237 mmol) and the reaction was cooled to 0° C. and stirred under argon. 2-pyridinecarbonyl chloride (155 mg, 0.873 mmol) was added portionwise and the reaction was slowly allowed to warm to rt, stirring continued for 18 hours. The sample was evaporated, the crude residue was purified by silica chromatography (5 g silica SPE), (eluting a gradient from 20-90% ethyl acetate in hexane) and the product containing fractions were concentrated. The product was then dissolved in 1,4-dioxane (2 ml) to this was added 1M ethereal HCl (4 ml) the sample was evaporated and then triturated in diethyl ether until solid. The solid was dried under vacuum at 40° C. for 18 hours to yield the title compound as a white solid (110 mg)

reactant | (2S)-1-[(4-chlorophenyl)sulfonyl]-2-methylpiperazine hydrochloride | 0.728 mmol, 200 mg | Cl.ClC1=CC=C(C=C1)S(=O)(=O)N1[C@H](CNCC1)C
reactant | triethylamine | 1.237 mmol, 0.172 ml | C(C)N(CC)CC | C6H15N
reactant | 2-pyridinecarbonyl chloride | 0.873 mmol, 155 mg | N1=C(C=CC=C1)C(=O)Cl | C6H4ClNO
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | (2S)-1-[(4-Chlorophenyl)sulfonyl]-2-methyl-4-(2-pyridinylcarbonyl)piperazine hydrochloride | 110 mg | Cl.ClC1=CC=C(C=C1)S(=O)(=O)N1[C@H](CN(CC1)C(=O)C1=NC=CC=C1)C | InChI=1S/C17H18ClN3O3S.ClH/c1-13-12-20(17(22)16-4-2-3-9-19-16)10-11-21(13)25(23,24)15-7-5-14(18)6-8-15;/h2-9,13H,10-12H2,1H3;1H/t13-;/m0./s1
